US08022223B2
Following the procedure in Example 7 Step E, 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea (740 mg, 2.163 mmol), 1-bromo-4-phenylbutan-2-one (687.6 mg, 3.028 mmol) and triethylamine (0.5014 mL, 3.676 mmol) afforded 5-bromo-3-(4-fluorophenoxy)-N-(4-phenethylthiazol-2-yl)pyridin-2-amine (1040 mg, 102.2% yield) as a white solid after drying. 1H NMR (CDCl3) δ 8.71 (bs, 1H), 8.13 (d, 1H), 7.28 (m, 2H), 7.20 (m, 3H), 7.13 (m, 2H), 7.06 (m, 3H), 6.43 (s, 1H), 3.05-2.92 (m, 4H). Mass spectrum (apci) m/z=470.2, 472.2 (M+H).

reactant | 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea | 2.163 mmol, 740 mg | BrC=1C=C(C(=NC1)NC(=S)N)OC1=CC=C(C=C1)F | C12H9BrFN3OS
reactant | 1-bromo-4-phenylbutan-2-one | 3.028 mmol, 687.6 mg | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
reactant | triethylamine | 3.676 mmol, 0.5014 mL | C(C)N(CC)CC | C6H15N
product | 5-bromo-3-(4-fluorophenoxy)-N-(4-phenethylthiazol-2-yl)pyridin-2-amine | 1040 mg, 102.2% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC1=CC=CC=C1)OC1=CC=C(C=C1)F | C22H17BrFN3OS
